US05039332
1-[[2-(4-chlorophenyl)-1,3-oxathiolan-2-yl]methyl]-1H-1,2,4-triazole (Cpd. No. 6)
To a slurry of 44.3 g 1-(4-chlorophenyl)-2-(1H-1,2,4-triazol-l-yl) ethanone in 800 ml dry toluene and 400 ml 1-butanol was added 31.2 g 2-mercaptoethanol and 51.0 g p-toluenesulfonic acid. The mixture was refluxed under a Dean-Stark trap for 48 hours. On cooling, a white solid precipitated out, which was removed by filtration. The filtrate was evaporated, the residue dissolved in dichloromethane and washed twice with 10% aqueous sodium hydroxide and once with water. The organic layer was dried, filtered and evaporated to leave an oil which was taken up in cyclohexane. The cyclohexane was evaporated to azeotrope off any remaining 1-butanol, leaving an oily solid which was triturated with petroleum ether to give 15.7 g of product.

reactant | 1-(4-chlorophenyl)-2-(1H-1,2,4-triazol-l-yl) ethanone | 44.3 g | ClC1=CC=C(C=C1)C(CN1N=CN=C1)=O | C10H8ClN3O
reactant | 2-mercaptoethanol | 31.2 g | SCCO | C2H6OS
reactant | p-toluenesulfonic acid | 51.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1-butanol | 400 ml | C(CCC)O | C4H10O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-[[2-(4-chlorophenyl)-1,3-oxathiolan-2-yl]methyl]-1H-1,2,4-triazole | 15.7 g | ClC1=CC=C(C=C1)C1(OCCS1)CN1N=CN=C1 | C12H12ClN3OS
